US06869954B2
Preparation of 4-dimethylaminomethyl-2-isobutyl-6-(4-methylphenyl)-2H-pyridazin-3-one
Following the procedure of Example 7, 2-isobutyl-4-methanesulfonyloxymethyl-6-(4-methylphenyl)-2H-pyridazin-3-one and dimethylamine were reacted to yield the title compound as a slightly yellow oil (yield: 96.6%).

reactant | 2-isobutyl-4-methanesulfonyloxymethyl-6-(4-methylphenyl)-2H-pyridazin-3-one | C(C(C)C)N1N=C(C=C(C1=O)COS(=O)(=O)C)C1=CC=C(C=C1)C | C17H22N2O4S
reactant | dimethylamine | CNC | C2H7N
product | 4-dimethylaminomethyl-2-isobutyl-6-(4-methylphenyl)-2H-pyridazin-3-one | CN(C)CC=1C(N(N=C(C1)C1=CC=C(C=C1)C)CC(C)C)=O | C18H25N3O
